US07345180B2
Sodium hydride (53 mg) was added to a solution of benzyl 1H-indole-5-carboxylate (276 mg) in N,N-dimethylformamide (2 ml) with ice cooling, and the mixture was stirred for 30 minutes. 2,2-Dimethylpropionyl chloride (162 mg) was added thereto, and the mixture was stirred for 2 hours. Water was added thereto, and the aqueous phase was neutralized, extracted with dichloromethane, and the extract was dried over sodium sulfate anhydrous. The resulting product was concentrated under reduced pressure to give benzyl 1-(2,2-dimethylpropionyl)-1H-indole-5-carboxylate (320 mg, Y.:87%) as pale orange crystals.

reactant | Sodium hydride | 53 mg | [H-].[Na+]
reactant | benzyl 1H-indole-5-carboxylate | 276 mg | N1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | 2,2-Dimethylpropionyl chloride | 162 mg | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | benzyl 1-(2,2-dimethylpropionyl)-1H-indole-5-carboxylate | 320 mg, 87% | CC(C(=O)N1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1)(C)C | C21H21NO3
